US06329381B1
6-Amino-2-(2-aminoethylthio)-9-benzyl-8-hydroxypurine
6-Amino-9-benzyl-8-hydroxy-2-(2-phthalimidoethylthio)purine (78 mg, 0.18 mmol) was suspended in 1M hydrazine monohydrate (10 ml). The suspension was stirred at room temperature for 9 hours. The reaction mixture was evaporated in vacuo to dryness and to the residue was added 2N hydrochloric acid. Insoluble materials were filtered off and the filtrate was neutralized with 28% aqueous ammonia and extracted with ethyl acetate. The organic layer was dried on magnesium sulfate and evaporated in vacuo to dryness to give the subject compound (4 mg, yield 7%).

reactant | 6-Amino-9-benzyl-8-hydroxy-2-(2-phthalimidoethylthio)purine | 0.18 mmol, 78 mg | NC1=C2N=C(N(C2=NC(=N1)SCCN1C(C=2C(C1=O)=CC=CC2)=O)CC2=CC=CC=C2)O | C22H18N6O3S
solvent | hydrazine monohydrate | 1M, 10 ml | O.NN
product | 6-Amino-2-(2-aminoethylthio)-9-benzyl-8-hydroxypurine | 4 mg, yield 7% | NC1=C2N=C(N(C2=NC(=N1)SCCN)CC1=CC=CC=C1)O | C14H16N6OS
